US07612068B2
1-Cyclohexylamino-propan-2-ol
Cyclohexanone (0.98 g, 10 mmol) and 1-amino-propan-2-ol (0.75 g, 10 mmol) were mixed and MeOH (20 mL), acetic acid (12 mg, 0.5 mmol), cyanoborohydride resin (7 g, 14 mmol, 2 mmol/g, prepared as described by A. R. Sande et al, Tetrahedron Letters 1984, 3501) were added. The reaction mixture was heated under reflux for 16 h. The resin was filtered off and the filtrate was evaporated in vacuo. The crude product was used without further purification.

reactant | Cyclohexanone | 10 mmol, 0.98 g | C1(CCCCC1)=O | C6H10O
reactant | 1-amino-propan-2-ol | 10 mmol, 0.75 g | NCC(C)O | C3H9NO
reactant | acetic acid | 0.5 mmol, 12 mg | C(C)(=O)O | C2H4O2
reactant | cyanoborohydride | C(#N)[BH3-]
solvent | MeOH | 20 mL | CO | CH4O
product | 1-Cyclohexylamino-propan-2-ol | C1(CCCCC1)NCC(C)O | C9H19NO
